US07749999B2
3-Amino-6-chloro-pyridin-2-yl-p-tolyl-amine.
A mixture of 6-chloro-3-nitro-pyridin-2-yl-p-tolyl-amine (527 mg, 2 mmol) and tin(II) chloride dihydrate (2.72 g, 12 mmol) in 4 mL conc. HCl was heated at 90° C. for 2 h. After cooling down the yellow suspension was diluted with ethyl acetate and treated with aq. K2CO3 at 0° C. under vigorous stirring to pH 10. The emulsion was extracted with 5×30 mL EtOAc. The combined organic phase was dried over Na2SO4. Evaporation gave 479 mg (yield: quantitative) of the title compound, which was pure by LC-MS and used for further reaction without any purification. Calculated mass=233. Observed mass=234.

reactant | 6-chloro-3-nitro-pyridin-2-yl-p-tolyl-amine | 2 mmol, 527 mg | ClC1=CC=C(C(=N1)NC1=CC=C(C=C1)C)[N+](=O)[O-] | C12H10ClN3O2
reactant | tin(II) chloride dihydrate | 12 mmol, 2.72 g | O.O.[Sn](Cl)Cl
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | HCl | 4 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Amino-6-chloro-pyridin-2-yl-p-tolyl-amine | 479 mg, yield: quantitative | NC=1C(=NC(=CC1)Cl)NC1=CC=C(C=C1)C | C12H12ClN3
